US07786108B2
Step 3. Preparation of (+/−)-isopropyl 5-[(3,5-bistrifluoromethyl-benzyl)-cyano-amino]-9-methyl-8-trifluormethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate
To a suspension of sodium hydride 60% in mineral oil (32 mg, 0.81 mmol) in dry dimethyl sulfoxide (3 mL), add isopropyl 5-(3,5-bistrifluoromethyl-benzylamino)-9-methyl-8-trifluormethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate (300 mg, 0.54 mmol) and dry dimethylformamide (2 mL). Add cyanogen bromide (176 mg, 1.62 mmol) and stir the reaction mixture at room temperature overnight. Add sodium hydride 60% in mineral oil (32 mg, 0.81 mmol) and cyanogen bromide (176 mg, 1.62 mmol) and stir at room temperature for one hour. Add additional sodium hydride 60% in mineral oil (32 mg, 0.81 mmol) and cyanogen bromide (176 mg, 1.62 mmol) and stir one hour. Add water and ethyl acetate. Separate the layers and dry the organic phase over anhydrous magnesium sulfate, filter and remove the solvent under reduced pressure. Purify the residue by flash chromatography, eluting with hexanes/ethyl acetate, to afford the titled compound (124 mg, 40%). MS (ES+): 582 (M+H).

reactant | sodium hydride | [H-].[Na+]
reactant | isopropyl 5-(3,5-bistrifluoromethyl-benzylamino)-9-methyl-8-trifluormethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.54 mmol, 300 mg | FC(C=1C=C(CNC2C3=C(N(CCC2)C(=O)OC(C)C)C(=C(C=C3)C(F)(F)F)C)C=C(C1)C(F)(F)F)(F)F | C25H25F9N2O2
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
reactant | cyanogen bromide | 1.62 mmol, 176 mg | N#CBr | CBrN
reactant | cyanogen bromide | 1.62 mmol, 176 mg | N#CBr | CBrN
reactant | cyanogen bromide | 1.62 mmol, 176 mg | N#CBr | CBrN
solvent | dimethyl sulfoxide | 3 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (+/−)-isopropyl 5-[(3,5-bistrifluoromethyl-benzyl)-cyano-amino]-9-methyl-8-trifluormethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 124 mg, 40% | FC(C=1C=C(CN(C2C3=C(N(CCC2)C(=O)OC(C)C)C(=C(C=C3)C(F)(F)F)C)C#N)C=C(C1)C(F)(F)F)(F)F | C26H24F9N3O2
